US07018988B2
To a solution of [4-(3-methyl-2-pyridinyl)phenyl]methanol (12 g, 0.06 mol) in dry DMF (150 mL) was added pyridiniumdichromate (91 g, 0.24 mol) and stirred at RT for 3days. The reaction mixture was poured into water and extracted with ethyl acetate (250 mL). The organic layer was washed with water, brine, dried and concentrated. The crude was purified by column chromatography over silica gel to give 4-(3-methyl-2-pyridinyl)benzoic acid (3 g, 25%) as white solid.

reactant | [4-(3-methyl-2-pyridinyl)phenyl]methanol | 0.06 mol, 12 g | CC=1C(=NC=CC1)C1=CC=C(C=C1)CO | C13H13NO
reactant | pyridiniumdichromate | 0.24 mol, 91 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-(3-methyl-2-pyridinyl)benzoic acid | 3 g, 25% | CC=1C(=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C13H11NO2
